US09120785B2
tert-Butyl 3-[1-hydroxy-1-(1,3-thiazol-2-yl)ethyl]pyrrolidine-1-carboxylate (100 mg, 0.335 mmol), 6-bromo-4-methyl-N-[4-(trifluoromethyl)pyridin-2-yl]pyridin-2-amine (112 mg, 0.337 mmol), butyl di-1-adamantylphosphine (25 mg, 0.070 mmol), tris(dibenzylideneacetone)dipalladium(0) (16.3 mg, 0.018 mmol), pivalic acid (0.018 mL, 0.157 mmol), potassium carbonate (140 mg, 1.013 mmol) and N,N-dimethylacetamide (1 mL) were combined and the mixture was evacuated and purged with nitrogen 3 times then heated to 130° C. for 7 hours. The mixture was filtered then extracted with ethyl acetate. The organic phase was washed with water and brine, dried over sodium sulfate, and concentrated under reduced pressure to afford tert-butyl 3-{1-hydroxy-1-[5-(4-methyl-6-{[4-(trifluoromethyl)-pyridin-2-yl]amino}pyridin-2-yl)-1,3-thiazol-2-yl]ethyl}pyrrolidine-1-carboxylate, which was used in a subsequent step without further purification. MS ESI calc'd. for C26H30F3N5O3S [M+H]+ 550. found 550.

reactant | tert-Butyl 3-[1-hydroxy-1-(1,3-thiazol-2-yl)ethyl]pyrrolidine-1-carboxylate | 0.335 mmol, 100 mg | OC(C)(C=1SC=CN1)C1CN(CC1)C(=O)OC(C)(C)C | C14H22N2O3S
reactant | 6-bromo-4-methyl-N-[4-(trifluoromethyl)pyridin-2-yl]pyridin-2-amine | 0.337 mmol, 112 mg | BrC1=CC(=CC(=N1)NC1=NC=CC(=C1)C(F)(F)F)C | C12H9BrF3N3
reactant | butyl di-1-adamantylphosphine | 0.070 mmol, 25 mg | C(CCC)P(C12CC3CC(CC(C1)C3)C2)C23CC1CC(CC(C2)C1)C3 | C24H39P
reactant | pivalic acid | 0.157 mmol, 0.018 mL | C(C(C)(C)C)(=O)O | C5H10O2
reactant | potassium carbonate | 1.013 mmol, 140 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.018 mmol, 16.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | N,N-dimethylacetamide | 1 mL | CN(C(C)=O)C | C4H9NO
product | tert-butyl 3-{1-hydroxy-1-[5-(4-methyl-6-{[4-(trifluoromethyl)-pyridin-2-yl]amino}pyridin-2-yl)-1,3-thiazol-2-yl]ethyl}pyrrolidine-1-carboxylate | OC(C)(C=1SC(=CN1)C1=NC(=CC(=C1)C)NC1=NC=CC(=C1)C(F)(F)F)C1CN(CC1)C(=O)OC(C)(C)C | C26H30F3N5O3S
